US04551469
1-(1,2,4-Triazol-1-yl)-2-o-chlorophenyl-2-p-fluorophenyl-ethan-2-ol (Compound 45)
1,2,4-Triazole (0.04 mol) was added portionwise to sodium hydride (0.04 mol) in DMF (40 ml) and the solution stirred at room temperature until effervescence ceased. 1-o-Chlorophenyl-1-p-fluorophenyl ethylene oxide (0.02 mol) in DMF (10 ml) was added dropwise and the solution stirred at 80° for 4 hours. The solution was poured into water and triturated with petroleum ether to give a white crystalline solid which was filtered off and dried. Recrystallisation from petroleum ether (60°-80°)/methylene chloride gave the title compound (70%) as a white crystalline solid, m.p. 115°-116°.

reactant | 1,2,4-Triazole | 0.04 mol | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | 0.04 mol | [H-].[Na+]
reactant | 1-o-Chlorophenyl-1-p-fluorophenyl ethylene oxide | 0.02 mol | ClC1=C(C=CC=C1)C1(CO1)C1=CC=C(C=C1)F | C14H10ClFO
reactant | water | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(1,2,4-Triazol-1-yl)-2-o-chlorophenyl-2-p-fluorophenyl-ethan-2-ol | 70% | N1(N=CN=C1)CC(O)(C1=CC=C(C=C1)F)C1=C(C=CC=C1)Cl | C16H13ClFN3O
